US07759337B2
To a solution of 6-bromo-1-chlorophthalazine (0.22 g, 0.9 mmol) in acetonitile (5 mL) stirred at ambient was added sodium ethanethiolate (0.2 g, 2 mmol), and the mixture was stirred for 1 h. The mixture was diluted with ethyl acetate (100 mL), washed with sat. NH4Cl, dried over anhydrous Na2SO4, and concentrated under reduced pressure. The crude product was purified by chromatography eluting with 1-5% 2 M ammonia methanol/dichloromethane to give the 6-bromo-1-(ethylthio)phthalazine as pale yellow solid.

reactant | 6-bromo-1-chlorophthalazine | 0.9 mmol, 0.22 g | BrC=1C=C2C=NN=C(C2=CC1)Cl | C8H4BrClN2
reactant | sodium ethanethiolate | 2 mmol, 0.2 g | C(C)[S-].[Na+]
solvent | acetonitile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-bromo-1-(ethylthio)phthalazine | BrC=1C=C2C=NN=C(C2=CC1)SCC | C10H9BrN2S
